US07790746B2
4-{4-[(3-acetylbenzoyl)amino]anilino}-6-(dimethylamino)quinolinium chloride (M2).
A mixture of N4-(4-Aminophenyl)-N6,N6-dimethyl-4,6-quinolinediamine (181 mg, 0.58 mmol), 3-acetylbenzoic acid (M1) (97 mg, 0.58 mmol) and EDCl (220 mg, 0.1.16 mmol) in DMF (5 mL) was stirred at 20° C. for 5 min. Then DMAP (140 mg, 1.16 mmol) was added and the reaction mixture was stirred at 20° C. for 24 h. The solvent was removed under reduced pressure and residue was stirred in aqueous NaHCO3 for 1 h. The resulting precipitate was filtered and purified by chromatography in SiO2 eluting with a gradient (0-7.5%) of MeOH/DCM to give M2 (113 mg, 42%); mp (DCM/MeOH)>280° C.; 1H NMR [(CD3)2SO] δ 14.02 (br, 1H, N+H), 10.66 (s, 1H, NH), 10.31 (s, 1H, NH), 8.53 (t, J=1.6 Hz, 1H, ArH), 8.28 (d, J=6.7 Hz, 1H, ArH), 8.24 (td, J=8.1, 1.5 Hz, 1H, ArH), 8.19 (td, J=7.8, 2.8 Hz, 1H, ArH), 8.00 (d, J=6.8 Hz, 2H, ArH), 7.87 (d, J=9.4 Hz, 1H, ArH), 7.78 (t, J=7.8 Hz, 1H, ArH), 7.64 (dd, J=9.4, 2.6 Hz, 1H, ArH), 7.51 (d, J=2.5 Hz, 1H, ArH), 7.47 (d, J=8.8 Hz, 2H, ArH), 6.69 (d, J=6.7 Hz, 1H, ArH), 3.09 [s, 6H, (NCH3)2], 2.68 (s, 3H, COCH3); APCl+ve 425.

reactant | N4-(4-Aminophenyl)-N6,N6-dimethyl-4,6-quinolinediamine | 0.58 mmol, 181 mg | NC1=CC=C(C=C1)NC1=CC=NC2=CC=C(C=C12)N(C)C | C17H18N4
reactant | 3-acetylbenzoic acid | 0.58 mmol, 97 mg | C(C)(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O3
reactant | EDCl | 220 mg | CCN=C=NCCCN(C)C.Cl
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 1.16 mmol, 140 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-{4-[(3-acetylbenzoyl)amino]anilino}-6-(dimethylamino)quinolinium chloride | [Cl-].C(C)(=O)C=1C=C(C(=O)NC2=CC=C(NC3=CC=[NH+]C4=CC=C(C=C34)N(C)C)C=C2)C=CC1 | InChI=1S/C26H24N4O2.ClH/c1-17(31)18-5-4-6-19(15-18)26(32)29-21-9-7-20(8-10-21)28-25-13-14-27-24-12-11-22(30(2)3)16-23(24)25;/h4-16H,1-3H3,(H,27,28)(H,29,32);1H
